US07525717B2
2-Methyl-N-(6-methylpyridin-2-yl)quinolin-8-amine
To a flask were added 4.2 g of 2-methylquinolin-8-amine, 4.6 g of 6-methyl-2-bromopyridine, 3.3 g of sodium tert-butoxide, and 75 ml toluene. The mixture was purged thoroughly with nitrogen and 44 mg of 1,1′-bis(diphenylphosphino)ferrocene and 18 mg of palladium acetate were added. The reaction mixture was heated to 80 C for 16 hours, and then cooled to 22 C. After quenching with 100 ml of water, the product was extracted with 75 ml ethyl acetate. The product was extracted with 120 ml of 1M hydrochloric acid, and then basified with 3M sodium hydroxide. Following extraction with 75 ml of ethyl acetate and washing with 30 ml of water, the solvent was removed. The product was purified by dissolving in a hot mixture of 20 ml of 2-propanol and 5 ml of water, and after cooling to 5 C, the product was filtered, washed with 50% 2-propanol, and dried, resulting in 4.5 g of a tan solid.

reactant | 2-methylquinolin-8-amine | 4.2 g | CC1=NC2=C(C=CC=C2C=C1)N | C10H10N2
reactant | 6-methyl-2-bromopyridine | 4.6 g | CC1=CC=CC(=N1)Br | C6H6BrN
reactant | sodium tert-butoxide | 3.3 g | CC(C)([O-])C.[Na+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-N-(6-methylpyridin-2-yl)quinolin-8-amine | 4.5 g | CC1=NC2=C(C=CC=C2C=C1)NC1=NC(=CC=C1)C | C16H15N3
